US07524860B2
1-(5-Butyryl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2-yl)-3-ethyl-urea
Propylmagnesium chloride (1.00 mL) was cooled to 0° C. then charged with 2-(3-ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid methoxy-methyl-amide (252 mg, 0.682 mmol) in tetrahydrofuran (4.00 mL). After 24 h the reaction was diluted with tetrahydrofuran and neutralized with NH4Cl. The organic was dried over magnesium sulfate and concentrated leaving a solid. The crude was recrystallized (ethyl acetate) to afford the final product 1-(5-butyryl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2-yl)-3-ethyl-urea. MS (APCI+): m/z 353.4 (M+H).

reactant | Propylmagnesium chloride | 1.00 mL | C(CC)[Mg]Cl
reactant | 2-(3-ethyl-ureido)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-5-carboxylic acid methoxy-methyl-amide | 0.682 mmol, 252 mg | CON(C(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)C=2C=NC=CC2)C | C17H19N7O3
solvent | tetrahydrofuran | 4.00 mL | O1CCCC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 1-(5-butyryl-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridine-2-yl)-3-ethyl-urea | C(CCC)(=O)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)C=2C=NC=CC2 | C18H20N6O2
